US05616586
trans-9-Bromo-6-methyl-5-(p-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (50 mg, 0.14 mmol) and p-sulfamoylaniline (25 mg, 0.15 mmol) to give 42 mg of the title compound (58%) after recrystallization from acetone-methanol-water: mp 279.5°~295° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.09 (s, 1H), 10.32 (s, 1H), 7.76 (d, 2H, J=8.9 Hz), 7.70 (d, 2H, J=8.9 Hz), 7.23 (s, 2H), 7.21 (s, 1H), 7.18 (s, 1H), 4.95~5.05 (m, 1H), 3.21 (dd, 1H, J=17.8, 5.9 Hz), 2.52~2.66 (m, 3H), 2.28~2.42 (m, 1H), 0.87 (d, 3H, J=6.9 Hz).

reactant | trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.14 mmol, 50 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(=O)O | C14H13BrN2O4
reactant | p-sulfamoylaniline | 0.15 mmol, 25 mg | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | trans-9-Bromo-6-methyl-5-(p-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 42 mg, 58% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(NC2=CC=C(C=C2)S(N)(=O)=O)=O | C20H19BrN4O5S
